US05559111
i) 3-[2(R)-Isopropyl-3-(p-tert-butyl-phenyl)-propionyl]-4-(R)-benzyl-oxazolidin-2-one
30 ml of tetrahydrofuran are added to a solution of 31 ml of 1M lithium hexamethyl-disilazide and the mixture is stirred at -70° C. A solution of 3-isovaleroyl-4(R)-benzyloxazolidin-2-one in 20 ml of tetrahydrofuran is then added dropwise thereto and the reaction mixture is stirred for a further 1 hour at -70° C. A solution of 9.6 g of p-tert-butyl-benzyl bromide in 20 ml of tetrahydrofuran is then added dropwise thereto and the reaction mixture is stirred for a further 1 hour at -25° C. and then for 4 hours at 0° C. 6 ml of saturated ammonium chloride solution are then added to the reaction mixture, which is freed of tetrahydrofuran by means of concentration and then subjected to extraction with diethyl ether. The extract is concentrated by evaporation and the residue is purified by FC (700 g of silica gel, eluant: dichloromethane/hexane=1:1), yielding the title compound:

reactant | lithium hexamethyl-disilazide | 1M, 31 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-isovaleroyl-4(R)-benzyloxazolidin-2-one | C(CC(C)C)(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O | C15H19NO3
reactant | p-tert-butyl-benzyl bromide | 9.6 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | ammonium chloride | 6 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[2(R)-Isopropyl-3-(p-tert-butyl-phenyl)-propionyl]-4-(R)-benzyl-oxazolidin-2-one | C(C)(C)[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(C)(C)C | C26H33NO3
